US04489003
A mixture of 3.0 g (8.2 mmol) of 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[ 2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole, 1.59 g (11.5 mmol) of powdered potassium carbonate, 1.3 ml (11.5 mmol) of 2-chlorophenol and 20 ml of dry dimethylformamide is stirred at room temperature for 5 days, then poured into 60 ml of water and extracted three times with methylene chloride. The organic extracts are washed twice with saturated sodium chloride solution, dried over magnesium sulphate and evaporated. The crude product is chromatographed on silica gel, the elution being carried out successively with ethyl acetate/n-hexane (1:1), ethyl acetate/n-hexane (3:2) and ethyl acetate/n-hexane (7:3). After recrystallization from ethyl acetate, there is obtained o-chlorophenyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 214°-215°.

reactant | 1-[[(S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[ 2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole | 8.2 mmol, 3.0 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CCC1)=O | C18H14ClN5O2
reactant | potassium carbonate | 11.5 mmol, 1.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorophenol | 11.5 mmol, 1.3 ml | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 60 ml | O | H2O
product | o-chlorophenyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3=C(C=CC=C3)Cl)CCC1)=O | C21H15Cl2N3O3
